US07498292B2
To a 25 mL flask were added ethyl 3,3-ethylenedioxydodecanoate (1.131 g, 3.95 mmol), LiOH.H2O (840 mg, 20 mmol), THF (5 mL), and water (5 mL). The mixture was stirred at room temperature overnight. The solution was acidified by the addition of 1 M HCl (50 mL), and extracted with ethyl acetate (3×50 mL). The organic layers were combined and washed once with brine. The organic phase was dried (MgSO4) and concentrated to give 3,3-ethylenedioxydodecanoic acid (0.824 g, 3.19 mmol) in 81% yield. 1H NMR (500 MHz, CDCl3) δ 0.88 (t, J=7 Hz, 3H), 1.20-1.44 (m, 14H), 1.72-1.80 (m, 2H), 2.72 (s, 2H), 3.98-4.10 (m, 4H); 13C NMR (125 MHz, CDCl3) δ 13.9, 22.5, 23.3, 29.13, 29.35, 29.39, 29.50, 31.7, 37.5, 42.2, 64.9 (2 C), 109.2, 174.8.

reactant | ethyl 3,3-ethylenedioxydodecanoate | 3.95 mmol, 1.131 g | C1OC(CC(=O)OCC)(CCCCCCCCC)OC1 | C16H30O4
reactant | LiOH.H2O | 20 mmol, 840 mg | O[Li].O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 3,3-ethylenedioxydodecanoic acid | 3.19 mmol, 0.824 g, 81% yield | C1OC(CC(=O)O)(CCCCCCCCC)OC1 | C14H26O4
